US04252986
Manufacture of 1(2,2,6-trimethylcyclohexyl)-hexane-3-ol
1.66 kilograms of 8,12-dimethyltrideca-5,7,12-tri-en-4-on dissolved in 3 kilograms benzene are dropped while stirring at 10°-15° C. into 1.66 kilograms phosphoric acid and the reaction mixture is stirred for 2 hours at 20° C. and thereafter for 3 hours at 30° C. Thereupon water is added, the aqueous phase is extracted twice with benzene, the benzene extract is neutrally washed with sodium carbonate solution, and the benzene is then removed by distillation. The reaction product is purified by distillation. The yield is 1.3 kilograms 1-(2',6',6'-trimethylcyclohex-2'-enyl)-hex-1-en-3-on.

reactant | 8,12-dimethyltrideca-5,7,12-tri-en-4-on | 1.66 kilograms | CC(=CC=CC(CCC)=O)CCCC(=C)C | C15H24O
reactant | phosphoric acid | 1.66 kilograms | P(O)(O)(O)=O | H3O4P
reactant | water | O | H2O
solvent | benzene | 3 kilograms | C1=CC=CC=C1 | C6H6
product | 1(2,2,6-trimethylcyclohexyl)-hexane-3-ol | CC1(C(C(CCC1)C)CCC(CCC)O)C | C15H30O
